US05298664
Methylbenzophenone was prepared from mixtures of toluene and benzoyl chloride using essentially the method described in Example 1, with the following modifications in the distillation scheme.

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | Methylbenzophenone | CC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C14H12O
